US08383820B2
N-(5-Hydroxy-adamantan-2-yl)-3-[2-(tetrahydro-pyran-4-yl)-ethoxy]-benzamide
Prepared from 3-(tetrahydro-pyran-4-ylethoxy)-benzoic acid and 4-amino-1-hydroxyadamantane. LC-MS (m/z): 400 (M).

reactant | 3-(tetrahydro-pyran-4-ylethoxy)-benzoic acid | O1CCC(CC1)CCOC=1C=C(C(=O)O)C=CC1 | C14H18O4
reactant | 4-amino-1-hydroxyadamantane | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
product | N-(5-Hydroxy-adamantan-2-yl)-3-[2-(tetrahydro-pyran-4-yl)-ethoxy]-benzamide | OC12CC3C(C(CC(C1)C3)C2)NC(C2=CC(=CC=C2)OCCC2CCOCC2)=O | C24H33NO4
